### PR TITLE
[Merged by Bors] - feat(Analysis/Polynomial/MahlerMeasure): Bounds for the Mahler Measure of a polynomial

### PR DESCRIPTION
**Pull request by fbarroero**
We add
```
theorem mahlerMeasure_le_sum_norm_coeff (p : ℂ[X]) : p.mahlerMeasure ≤ p.sum fun _ a ↦ ‖a‖
```
and
```
theorem norm_coeff_le_choose_mul_mahlerMeasure (n : ℕ) (p : ℂ[X]) :
    ‖p.coeff n‖ ≤ (p.natDegree).choose (p.natDegree - n) * p.mahlerMeasure
```

---

- [x] depends on: #30548 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Polynomial/MahlerMeasure.lean [hunk 1]
```diff
@@ -254,4 +255,100 @@ theorem mahlerMeasure_eq_leadingCoeff_mul_prod_roots (p : ℂ[X]) : p.mahlerMeas
...
+/-!
+### Estimates for the Mahler measure
+-/
+
+lemma one_le_prod_max_one_norm_roots (p : ℂ[X]) : 1 ≤ (p.roots.map (fun a ↦ max 1 ‖a‖)).prod := by
+  grind [Multiset.one_le_prod, Multiset.mem_map]
+
+lemma leading_coeff_le_mahlerMeasure (p : ℂ[X]) : ‖p.leadingCoeff‖ ≤ p.mahlerMeasure := by
+  rw [mahlerMeasure_eq_leadingCoeff_mul_prod_roots]
+  exact le_mul_of_one_le_right (norm_nonneg p.leadingCoeff) (one_le_prod_max_one_norm_roots p)
```
Comment (j-loreaux) [inline Mathlib/Analysis/Polynomial/MahlerMeasure.lean]: optional, but I like it because it means we have to remember the names of fewer crazy lemmas:

```suggestion
  rw [← mul_one ‖_‖, mahlerMeasure_eq_leadingCoeff_mul_prod_roots]
  gcongr
  exact one_le_prod_max_one_norm_roots p
```

File: Mathlib/Analysis/Polynomial/MahlerMeasure.lean [hunk 2]
```diff
@@ -254,4 +255,100 @@ theorem mahlerMeasure_eq_leadingCoeff_mul_prod_roots (p : ℂ[X]) : p.mahlerMeas
...
+
+lemma prod_max_one_norm_roots_le_mahlerMeasure_of_one_le_leadingCoeff {p : ℂ[X]}
+    (hlc : 1 ≤ ‖p.leadingCoeff‖) : (p.roots.map (fun a ↦ max 1 ‖a‖)).prod ≤ p.mahlerMeasure := by
+  rw [mahlerMeasure_eq_leadingCoeff_mul_prod_roots]
+  exact le_mul_of_one_le_left (le_trans zero_le_one (one_le_prod_max_one_norm_roots p)) hlc
```
Comment (j-loreaux) [inline Mathlib/Analysis/Polynomial/MahlerMeasure.lean]: similarly, although this one is less nice than the previous one.
```suggestion
  rw [← one_mul (Multiset.prod _), mahlerMeasure_eq_leadingCoeff_mul_prod_roots]
  gcongr
  exact zero_le_one.trans <| one_le_prod_max_one_norm_roots p
```

File: Mathlib/Analysis/Polynomial/MahlerMeasure.lean [hunk 3]
```diff
@@ -254,4 +255,100 @@ theorem mahlerMeasure_eq_leadingCoeff_mul_prod_roots (p : ℂ[X]) : p.mahlerMeas
...
+theorem mahlerMeasure_le_sum_norm_coeff (p : ℂ[X]) : p.mahlerMeasure ≤ p.sum fun _ a ↦ ‖a‖ := by
+  by_cases hp : p = 0
+  · simp [hp]
+  have : 0 < p.sum fun _ a ↦ ‖a‖ :=
+    Finset.sum_pos' (fun i _ ↦ norm_nonneg (p.coeff i)) ⟨p.natDegree, by simp [hp]⟩
+  rw [show (p.sum fun _ a ↦ ‖a‖) = rexp (circleAverage (fun _ ↦ log (p.sum fun _ a ↦ ‖a‖)) 0 1)
+    by simp [circleAverage_def, mul_assoc, exp_log this], mahlerMeasure_def_of_ne_zero hp,
+    circleAverage_def, smul_eq_mul]
+  gcongr
+  apply intervalIntegral.integral_mono_ae_restrict (le_of_lt two_pi_pos)
```
Comment (j-loreaux) [inline Mathlib/Analysis/Polynomial/MahlerMeasure.lean]: optional, but I like to let automation do things
```suggestion
  apply intervalIntegral.integral_mono_ae_restrict (by positivity)
```

File: Mathlib/Analysis/Polynomial/MahlerMeasure.lean [hunk 4]
```diff
@@ -254,4 +255,100 @@ theorem mahlerMeasure_eq_leadingCoeff_mul_prod_roots (p : ℂ[X]) : p.mahlerMeas
...
+  constructor
+  · rw [mem_ae_iff, compl_def, Measure.restrict_apply' (by simp),
+      show {x | x ∉ {x | eval (circleMap 0 1 x) p ≠ 0}} ∩ Icc 0 (2 * π) =
+      {a | eval (circleMap 0 1 a) p = 0 ∧ a ∈ Icc 0 (2 * π)} by aesop]
+    apply (Finite.of_diff _ <| finite_singleton (2 * π)).measure_zero
+    have : {a | eval (circleMap 0 1 a) p = 0 ∧ a ∈ Icc 0 (2 * π)} \ {2 * π}
+        = {a | a ∈ Ico 0 (2 * π) ∧ eval (circleMap 0 1 a) p = 0} := by
+      ext
+      grind
+    rw [this]
```
Comment (j-loreaux) [inline Mathlib/Analysis/Polynomial/MahlerMeasure.lean]: generally `rw [show ... by ...]` is a bit of a code smell. Often it means you are missing lemmas, or you can't find the right ones.
```suggestion
  · rw [mem_ae_iff, compl_def, Measure.restrict_apply' (by simp)]
    apply (Finite.of_diff _ <| finite_singleton (2 * π)).measure_zero
    simp only [ne_eq, mem_setOf_eq, Decidable.not_not, inter_diff_assoc, Icc_diff_right]
    rw [setOf_inter_eq_sep]
```
I left one such `rw [show ...]` in your code above because I think it's actually reasonable. You could extract it into a `have` though.

File: Mathlib/Analysis/Polynomial/MahlerMeasure.lean [hunk 5]
```diff
@@ -254,4 +255,100 @@ theorem mahlerMeasure_eq_leadingCoeff_mul_prod_roots (p : ℂ[X]) : p.mahlerMeas
...
+      <| fun _ h _ k l ↦ injOn_circleMap_of_abs_sub_le' one_ne_zero (by linarith) h.1 k.1 l
+    simp [hp]
+  · intro _ _
+    gcongr
+    rw [eval_eq_sum]
+    apply norm_sum_le_of_le p.support
+    simp
+
+open Multiset in
+theorem norm_coeff_le_binom_mahlerMeasure (n : ℕ) (p : ℂ[X]) :
```
Comment (j-loreaux) [inline Mathlib/Analysis/Polynomial/MahlerMeasure.lean]:
```suggestion
theorem norm_coeff_le_choose_mul_mahlerMeasure (n : ℕ) (p : ℂ[X]) :
```

File: Mathlib/Analysis/Polynomial/MahlerMeasure.lean [hunk 6]
```diff
@@ -254,4 +255,100 @@ theorem mahlerMeasure_eq_leadingCoeff_mul_prod_roots (p : ℂ[X]) : p.mahlerMeas
...
+     ≤ ∑ x ∈ S.toFinset, count x S * ((p.roots).map (fun a ↦ max 1 ‖a‖)).prod := by
+    gcongr with x hx
+    rw [mem_toFinset, mem_powersetCard] at hx
+    rw [Finset.prod_multiset_map_count, Finset.prod_multiset_count, norm_prod]
+    simp_rw [norm_pow]
+    calc
+    ∏ z ∈ x.toFinset, ‖z‖ ^ count z x
+      ≤ ∏ z ∈ x.toFinset, (1 ⊔ ‖z‖) ^ count z x := by
+      gcongr with a
+      exact le_max_right 1 ‖a‖
```
Comment (j-loreaux) [inline Mathlib/Analysis/Polynomial/MahlerMeasure.lean:332]: please extract this as a `have`. I think reading `calc` blocks within `calc` blocks is pretty cumbersome.

**Review by j-loreaux — COMMENTED** [review]
I haven't picked through the last proof, but made some minor comments there.

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
